US05219847
III-4: Synthesis of zinc 4-carboxypicolinate (Compound No. S)
To a solution of 3.34 g (0.02 mol) of 4-carboxypicolinic acid dissolved in 150 ml of ethanol under heating was dropwise added a solution of 2.20 g (0.01 mol) of zinc acetate.dihydrate in 10 ml of water under stirring. After the dropwise addition, the mixture was stirred at the same temperature for 15 minutes. The solid obtained after leaving the mixture to stand for 2 days was collected by filtration, and recrystallized from water to obtain 4.30 g of crystals (yield 99.3%).

reactant | 4-carboxypicolinic acid | 0.02 mol, 3.34 g | C(=O)(O)C1=CC(=NC=C1)C(=O)O | C7H5NO4
reactant | zinc acetate | 0.01 mol, 2.20 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | zinc 4-carboxypicolinate | 4.30 g, yield 99.3% | C(=O)(O)C1=CC(=NC=C1)C(=O)[O-].[Zn+2].C(=O)(O)C1=CC(=NC=C1)C(=O)[O-] | InChI=1S/2C7H5NO4.Zn/c2*9-6(10)4-1-2-8-5(3-4)7(11)12;/h2*1-3H,(H,9,10)(H,11,12);/q;;+2/p-2
